US07235676B2
To a mechanically stirred solution of styrene (1.0 mol), urea (40.8 mol), sodium bicarbonate (0.6 mol) and manganese sulphate (0.001 mol) in 500 ml of water at 0° C. is added 50% aqueous hydrogen peroxide (2.2 mol) drop-wise over a period of 3 hours. The reaction was allowed to stir for 10 hours. After 10 hours a separating funnel separated the organic layer of the reaction mixture. The aqueous layer was extracted with 4×20 mL diethyl ether. The combined organic layer was distilled to yield styrene oxide. The conversion to epoxide is 99% with selectivity 92%.

reactant | styrene | 1.0 mol | C=CC1=CC=CC=C1 | C8H8
reactant | urea | 40.8 mol | NC(=O)N | CH4N2O
reactant | sodium bicarbonate | 0.6 mol | C([O-])(O)=O.[Na+]
reactant | hydrogen peroxide | 2.2 mol | OO | H2O2
solvent | water | 500 ml | O | H2O
catalyst | manganese sulphate | 0.001 mol | S(=O)(=O)([O-])[O-].[Mn+2]
product | styrene oxide | C1C(C2=CC=CC=C2)O1 | C8H8O
